* EQUIVALENT CIRCUIT FOR VECTOR FITTED S-MATRIX
* Created using scikit-rf vectorFitting.py
*
.SUBCKT s_equivalent_1 p1 p2 p3
*
* Port network for port 1
V1 p1 s1 0
R1 s1 0 50.0
Gd1_1 0 s1 p1 0 1.252159491849092e-06
Fd1_1 0 s1 V1 6.260797459245461e-05
Gr1_re_1_1 0 s1 x1_re_a1 0 992321637841.9834
Gr1_im_1_1 0 s1 x1_im_a1 0 2081723191810.322
Gr2_1_1 0 s1 x2_a1 0 31931065058.0284
Gr3_1_1 0 s1 x3_a1 0 26696149.77524791
Gr4_1_1 0 s1 x4_a1 0 -4424836184.122385
Gd1_2 0 s1 p2 0 -6.245592515696785e-07
Fd1_2 0 s1 V2 -3.1227962578483925e-05
Gr1_re_1_2 0 s1 x1_re_a2 0 -132118566386.80286
Gr1_im_1_2 0 s1 x1_im_a2 0 -1407465757793.0315
Gr2_1_2 0 s1 x2_a2 0 65790489213.10337
Gr3_1_2 0 s1 x3_a2 0 -11103650.452407794
Gr4_1_2 0 s1 x4_a2 0 2336915043.823303
Gd1_3 0 s1 p3 0 -8.287572210408101e-07
Fd1_3 0 s1 V3 -4.143786105204051e-05
Gr1_re_1_3 0 s1 x1_re_a3 0 91061486096.70384
Gr1_im_1_3 0 s1 x1_im_a3 0 -1366526533444.829
Gr2_1_3 0 s1 x2_a3 0 -97199529707.57573
Gr3_1_3 0 s1 x3_a3 0 -41828064.97162587
Gr4_1_3 0 s1 x4_a3 0 2498264859.301965
*
* State networks driven by port 1
Cx1_re_a1 x1_re_a1 0 1.0
Gx1_re_a1 0 x1_re_a1 p1 0 0.1414213562373095
Fx1_re_a1 0 x1_re_a1 V1 7.0710678118654755
Rp1_re_re_a1 0 x1_re_a1 1.472812708330351e-13
Gp1_re_im_a1 0 x1_re_a1 x1_im_a1 0 4842390011821.618
Cx1_im_a1 x1_im_a1 0 1.0
Gp1_im_re_a1 0 x1_im_a1 x1_re_a1 0 -4842390011821.618
Rp1_im_im_a1 0 x1_im_a1 1.472812708330351e-13
Cx2_a1 x2_a1 0 1.0
Gx2_a1 0 x2_a1 p1 0 0.07071067811865475
Fx2_a1 0 x2_a1 V1 3.5355339059327378
Rp2_a1 0 x2_a1 2.3132900074484617e-13
Cx3_a1 x3_a1 0 1.0
Gx3_a1 0 x3_a1 p1 0 0.07071067811865475
Fx3_a1 0 x3_a1 V1 3.5355339059327378
Rp3_a1 0 x3_a1 5.7343873896109026e-12
Cx4_a1 x4_a1 0 1.0
Gx4_a1 0 x4_a1 p1 0 0.07071067811865475
Fx4_a1 0 x4_a1 V1 3.5355339059327378
Rp4_a1 0 x4_a1 1.1050289223907674e-12
*
* Port network for port 2
V2 p2 s2 0
R2 s2 0 50.0
Gd2_1 0 s2 p1 0 -6.227985429374527e-07
Fd2_1 0 s2 V1 -3.113992714687264e-05
Gr1_re_2_1 0 s2 x1_re_a1 0 -132215340952.91939
Gr1_im_2_1 0 s2 x1_im_a1 0 -1408980246075.243
Gr2_2_1 0 s2 x2_a1 0 64949356275.529495
Gr3_2_1 0 s2 x3_a1 0 -11221014.506834837
Gr4_2_1 0 s2 x4_a1 0 2339786554.526249
Gd2_2 0 s2 p2 0 1.254032247867132e-06
Fd2_2 0 s2 V2 6.27016123933566e-05
Gr1_re_2_2 0 s2 x1_re_a2 0 993468976807.2136
Gr1_im_2_2 0 s2 x1_im_a2 0 2082275021781.5044
Gr2_2_2 0 s2 x2_a2 0 31295864080.54669
Gr3_2_2 0 s2 x3_a2 0 26922295.703447904
Gr4_2_2 0 s2 x4_a2 0 -4425523979.209311
Gd2_3 0 s2 p3 0 -8.26934398006074e-07
Fd2_3 0 s2 V3 -4.13467199003037e-05
Gr1_re_2_3 0 s2 x1_re_a3 0 90612204239.09584
Gr1_im_2_3 0 s2 x1_im_a3 0 -1367270919142.5
Gr2_2_3 0 s2 x2_a3 0 -97270630350.73973
Gr3_2_3 0 s2 x3_a3 0 -41819532.06381788
Gr4_2_3 0 s2 x4_a3 0 2499020365.3723636
*
* State networks driven by port 2
Cx1_re_a2 x1_re_a2 0 1.0
Gx1_re_a2 0 x1_re_a2 p2 0 0.1414213562373095
Fx1_re_a2 0 x1_re_a2 V2 7.0710678118654755
Rp1_re_re_a2 0 x1_re_a2 1.472812708330351e-13
Gp1_re_im_a2 0 x1_re_a2 x1_im_a2 0 4842390011821.618
Cx1_im_a2 x1_im_a2 0 1.0
Gp1_im_re_a2 0 x1_im_a2 x1_re_a2 0 -4842390011821.618
Rp1_im_im_a2 0 x1_im_a2 1.472812708330351e-13
Cx2_a2 x2_a2 0 1.0
Gx2_a2 0 x2_a2 p2 0 0.07071067811865475
Fx2_a2 0 x2_a2 V2 3.5355339059327378
Rp2_a2 0 x2_a2 2.3132900074484617e-13
Cx3_a2 x3_a2 0 1.0
Gx3_a2 0 x3_a2 p2 0 0.07071067811865475
Fx3_a2 0 x3_a2 V2 3.5355339059327378
Rp3_a2 0 x3_a2 5.7343873896109026e-12
Cx4_a2 x4_a2 0 1.0
Gx4_a2 0 x4_a2 p2 0 0.07071067811865475
Fx4_a2 0 x4_a2 V2 3.5355339059327378
Rp4_a2 0 x4_a2 1.1050289223907674e-12
*
* Port network for port 3
V3 p3 s3 0
R3 s3 0 50.0
Gd3_1 0 s3 p1 0 -5.850489639125378e-07
Fd3_1 0 s3 V1 -2.925244819562689e-05
Gr1_re_3_1 0 s3 x1_re_a1 0 92536926822.98253
Gr1_im_3_1 0 s3 x1_im_a1 0 -1359678417204.1968
Gr2_3_1 0 s3 x2_a1 0 -94375091593.95485
Gr3_3_1 0 s3 x3_a1 0 -42702727.10445669
Gr4_3_1 0 s3 x4_a1 0 2512831531.3397083
Gd3_2 0 s3 p2 0 -5.827058523744099e-07
Fd3_2 0 s3 V2 -2.91352926187205e-05
Gr1_re_3_2 0 s3 x1_re_a2 0 91994687321.63583
Gr1_im_3_2 0 s3 x1_im_a2 0 -1359271117954.837
Gr2_3_2 0 s3 x2_a2 0 -93661293675.16116
Gr3_3_2 0 s3 x3_a2 0 -42551693.91981165
Gr4_3_2 0 s3 x4_a2 0 2510163084.773589
Gd3_3 0 s3 p3 0 1.7454513280235063e-06
Fd3_3 0 s3 V3 8.727256640117532e-05
Gr1_re_3_3 0 s3 x1_re_a3 0 769960443999.756
Gr1_im_3_3 0 s3 x1_im_a3 0 2060751911128.5803
Gr2_3_3 0 s3 x2_a3 0 206561443521.5676
Gr3_3_3 0 s3 x3_a3 0 60645607.64178932
Gr4_3_3 0 s3 x4_a3 0 -4673003947.699802
*
* State networks driven by port 3
Cx1_re_a3 x1_re_a3 0 1.0
Gx1_re_a3 0 x1_re_a3 p3 0 0.1414213562373095
Fx1_re_a3 0 x1_re_a3 V3 7.0710678118654755
Rp1_re_re_a3 0 x1_re_a3 1.472812708330351e-13
Gp1_re_im_a3 0 x1_re_a3 x1_im_a3 0 4842390011821.618
Cx1_im_a3 x1_im_a3 0 1.0
Gp1_im_re_a3 0 x1_im_a3 x1_re_a3 0 -4842390011821.618
Rp1_im_im_a3 0 x1_im_a3 1.472812708330351e-13
Cx2_a3 x2_a3 0 1.0
Gx2_a3 0 x2_a3 p3 0 0.07071067811865475
Fx2_a3 0 x2_a3 V3 3.5355339059327378
Rp2_a3 0 x2_a3 2.3132900074484617e-13
Cx3_a3 x3_a3 0 1.0
Gx3_a3 0 x3_a3 p3 0 0.07071067811865475
Fx3_a3 0 x3_a3 V3 3.5355339059327378
Rp3_a3 0 x3_a3 5.7343873896109026e-12
Cx4_a3 x4_a3 0 1.0
Gx4_a3 0 x4_a3 p3 0 0.07071067811865475
Fx4_a3 0 x4_a3 V3 3.5355339059327378
Rp4_a3 0 x4_a3 1.1050289223907674e-12
.ENDS s_equivalent_1
