
.SUBCKT IHP_PDK_nonlinear_components_npn13G2  gnd c b e bn Nx=1  
X1 c b e bn npn13G2 Nx={Nx} 
.ENDS
  

* EQUIVALENT CIRCUIT FOR VECTOR FITTED S-MATRIX
* Created using scikit-rf vectorFitting.py
*
.SUBCKT s_equivalent_1 p1 p2 p3
*
* Port network for port 1
V1 p1 s1 0
R1 s1 0 50.0
Gd1_1 0 s1 p1 0 1.252159491849092e-06
Fd1_1 0 s1 V1 6.260797459245461e-05
Gr1_re_1_1 0 s1 x1_re_a1 0 992321637841.9834
Gr1_im_1_1 0 s1 x1_im_a1 0 2081723191810.322
Gr2_1_1 0 s1 x2_a1 0 31931065058.0284
Gr3_1_1 0 s1 x3_a1 0 26696149.77524791
Gr4_1_1 0 s1 x4_a1 0 -4424836184.122385
Gd1_2 0 s1 p2 0 -6.245592515696785e-07
Fd1_2 0 s1 V2 -3.1227962578483925e-05
Gr1_re_1_2 0 s1 x1_re_a2 0 -132118566386.80286
Gr1_im_1_2 0 s1 x1_im_a2 0 -1407465757793.0315
Gr2_1_2 0 s1 x2_a2 0 65790489213.10337
Gr3_1_2 0 s1 x3_a2 0 -11103650.452407794
Gr4_1_2 0 s1 x4_a2 0 2336915043.823303
Gd1_3 0 s1 p3 0 -8.287572210408101e-07
Fd1_3 0 s1 V3 -4.143786105204051e-05
Gr1_re_1_3 0 s1 x1_re_a3 0 91061486096.70384
Gr1_im_1_3 0 s1 x1_im_a3 0 -1366526533444.829
Gr2_1_3 0 s1 x2_a3 0 -97199529707.57573
Gr3_1_3 0 s1 x3_a3 0 -41828064.97162587
Gr4_1_3 0 s1 x4_a3 0 2498264859.301965
*
* State networks driven by port 1
Cx1_re_a1 x1_re_a1 0 1.0
Gx1_re_a1 0 x1_re_a1 p1 0 0.1414213562373095
Fx1_re_a1 0 x1_re_a1 V1 7.0710678118654755
Rp1_re_re_a1 0 x1_re_a1 1.472812708330351e-13
Gp1_re_im_a1 0 x1_re_a1 x1_im_a1 0 4842390011821.618
Cx1_im_a1 x1_im_a1 0 1.0
Gp1_im_re_a1 0 x1_im_a1 x1_re_a1 0 -4842390011821.618
Rp1_im_im_a1 0 x1_im_a1 1.472812708330351e-13
Cx2_a1 x2_a1 0 1.0
Gx2_a1 0 x2_a1 p1 0 0.07071067811865475
Fx2_a1 0 x2_a1 V1 3.5355339059327378
Rp2_a1 0 x2_a1 2.3132900074484617e-13
Cx3_a1 x3_a1 0 1.0
Gx3_a1 0 x3_a1 p1 0 0.07071067811865475
Fx3_a1 0 x3_a1 V1 3.5355339059327378
Rp3_a1 0 x3_a1 5.7343873896109026e-12
Cx4_a1 x4_a1 0 1.0
Gx4_a1 0 x4_a1 p1 0 0.07071067811865475
Fx4_a1 0 x4_a1 V1 3.5355339059327378
Rp4_a1 0 x4_a1 1.1050289223907674e-12
*
* Port network for port 2
V2 p2 s2 0
R2 s2 0 50.0
Gd2_1 0 s2 p1 0 -6.227985429374527e-07
Fd2_1 0 s2 V1 -3.113992714687264e-05
Gr1_re_2_1 0 s2 x1_re_a1 0 -132215340952.91939
Gr1_im_2_1 0 s2 x1_im_a1 0 -1408980246075.243
Gr2_2_1 0 s2 x2_a1 0 64949356275.529495
Gr3_2_1 0 s2 x3_a1 0 -11221014.506834837
Gr4_2_1 0 s2 x4_a1 0 2339786554.526249
Gd2_2 0 s2 p2 0 1.254032247867132e-06
Fd2_2 0 s2 V2 6.27016123933566e-05
Gr1_re_2_2 0 s2 x1_re_a2 0 993468976807.2136
Gr1_im_2_2 0 s2 x1_im_a2 0 2082275021781.5044
Gr2_2_2 0 s2 x2_a2 0 31295864080.54669
Gr3_2_2 0 s2 x3_a2 0 26922295.703447904
Gr4_2_2 0 s2 x4_a2 0 -4425523979.209311
Gd2_3 0 s2 p3 0 -8.26934398006074e-07
Fd2_3 0 s2 V3 -4.13467199003037e-05
Gr1_re_2_3 0 s2 x1_re_a3 0 90612204239.09584
Gr1_im_2_3 0 s2 x1_im_a3 0 -1367270919142.5
Gr2_2_3 0 s2 x2_a3 0 -97270630350.73973
Gr3_2_3 0 s2 x3_a3 0 -41819532.06381788
Gr4_2_3 0 s2 x4_a3 0 2499020365.3723636
*
* State networks driven by port 2
Cx1_re_a2 x1_re_a2 0 1.0
Gx1_re_a2 0 x1_re_a2 p2 0 0.1414213562373095
Fx1_re_a2 0 x1_re_a2 V2 7.0710678118654755
Rp1_re_re_a2 0 x1_re_a2 1.472812708330351e-13
Gp1_re_im_a2 0 x1_re_a2 x1_im_a2 0 4842390011821.618
Cx1_im_a2 x1_im_a2 0 1.0
Gp1_im_re_a2 0 x1_im_a2 x1_re_a2 0 -4842390011821.618
Rp1_im_im_a2 0 x1_im_a2 1.472812708330351e-13
Cx2_a2 x2_a2 0 1.0
Gx2_a2 0 x2_a2 p2 0 0.07071067811865475
Fx2_a2 0 x2_a2 V2 3.5355339059327378
Rp2_a2 0 x2_a2 2.3132900074484617e-13
Cx3_a2 x3_a2 0 1.0
Gx3_a2 0 x3_a2 p2 0 0.07071067811865475
Fx3_a2 0 x3_a2 V2 3.5355339059327378
Rp3_a2 0 x3_a2 5.7343873896109026e-12
Cx4_a2 x4_a2 0 1.0
Gx4_a2 0 x4_a2 p2 0 0.07071067811865475
Fx4_a2 0 x4_a2 V2 3.5355339059327378
Rp4_a2 0 x4_a2 1.1050289223907674e-12
*
* Port network for port 3
V3 p3 s3 0
R3 s3 0 50.0
Gd3_1 0 s3 p1 0 -5.850489639125378e-07
Fd3_1 0 s3 V1 -2.925244819562689e-05
Gr1_re_3_1 0 s3 x1_re_a1 0 92536926822.98253
Gr1_im_3_1 0 s3 x1_im_a1 0 -1359678417204.1968
Gr2_3_1 0 s3 x2_a1 0 -94375091593.95485
Gr3_3_1 0 s3 x3_a1 0 -42702727.10445669
Gr4_3_1 0 s3 x4_a1 0 2512831531.3397083
Gd3_2 0 s3 p2 0 -5.827058523744099e-07
Fd3_2 0 s3 V2 -2.91352926187205e-05
Gr1_re_3_2 0 s3 x1_re_a2 0 91994687321.63583
Gr1_im_3_2 0 s3 x1_im_a2 0 -1359271117954.837
Gr2_3_2 0 s3 x2_a2 0 -93661293675.16116
Gr3_3_2 0 s3 x3_a2 0 -42551693.91981165
Gr4_3_2 0 s3 x4_a2 0 2510163084.773589
Gd3_3 0 s3 p3 0 1.7454513280235063e-06
Fd3_3 0 s3 V3 8.727256640117532e-05
Gr1_re_3_3 0 s3 x1_re_a3 0 769960443999.756
Gr1_im_3_3 0 s3 x1_im_a3 0 2060751911128.5803
Gr2_3_3 0 s3 x2_a3 0 206561443521.5676
Gr3_3_3 0 s3 x3_a3 0 60645607.64178932
Gr4_3_3 0 s3 x4_a3 0 -4673003947.699802
*
* State networks driven by port 3
Cx1_re_a3 x1_re_a3 0 1.0
Gx1_re_a3 0 x1_re_a3 p3 0 0.1414213562373095
Fx1_re_a3 0 x1_re_a3 V3 7.0710678118654755
Rp1_re_re_a3 0 x1_re_a3 1.472812708330351e-13
Gp1_re_im_a3 0 x1_re_a3 x1_im_a3 0 4842390011821.618
Cx1_im_a3 x1_im_a3 0 1.0
Gp1_im_re_a3 0 x1_im_a3 x1_re_a3 0 -4842390011821.618
Rp1_im_im_a3 0 x1_im_a3 1.472812708330351e-13
Cx2_a3 x2_a3 0 1.0
Gx2_a3 0 x2_a3 p3 0 0.07071067811865475
Fx2_a3 0 x2_a3 V3 3.5355339059327378
Rp2_a3 0 x2_a3 2.3132900074484617e-13
Cx3_a3 x3_a3 0 1.0
Gx3_a3 0 x3_a3 p3 0 0.07071067811865475
Fx3_a3 0 x3_a3 V3 3.5355339059327378
Rp3_a3 0 x3_a3 5.7343873896109026e-12
Cx4_a3 x4_a3 0 1.0
Gx4_a3 0 x4_a3 p3 0 0.07071067811865475
Fx4_a3 0 x4_a3 V3 3.5355339059327378
Rp4_a3 0 x4_a3 1.1050289223907674e-12
.ENDS s_equivalent_1

.SUBCKT T_connection _net0 _net2 _net1 
XT_connection _net0 _net2 _net1 s_equivalent_1 
.ENDS

* EQUIVALENT CIRCUIT FOR VECTOR FITTED S-MATRIX
* Created using scikit-rf vectorFitting.py
*
.SUBCKT s_equivalent_0 p1 p2 p3 p4
*
* Port network for port 1
V1 p1 s1 0
R1 s1 0 50.0
Gd1_1 0 s1 p1 0 2.893139271665703e-06
Fd1_1 0 s1 V1 0.00014465696358328516
Gr1_1_1 0 s1 x1_a1 0 4912147948453.049
Gr2_re_1_1 0 s1 x2_re_a1 0 -1319268556079.9465
Gr2_im_1_1 0 s1 x2_im_a1 0 1735174622789.5796
Gr3_1_1 0 s1 x3_a1 0 -80979426.93577664
Gr4_1_1 0 s1 x4_a1 0 -3817759930.7041607
Gd1_2 0 s1 p2 0 -8.407909559144355e-07
Fd1_2 0 s1 V2 -4.2039547795721777e-05
Gr1_1_2 0 s1 x1_a2 0 -1207829434525.9895
Gr2_re_1_2 0 s1 x2_re_a2 0 382577355417.01276
Gr2_im_1_2 0 s1 x2_im_a2 0 -388533785357.56036
Gr3_1_2 0 s1 x3_a2 0 104571502.07414089
Gr4_1_2 0 s1 x4_a2 0 -3867803750.0574265
Gd1_3 0 s1 p3 0 -1.665917931625849e-06
Fd1_3 0 s1 V3 -8.329589658129245e-05
Gr1_1_3 0 s1 x1_a3 0 1436697289427.5513
Gr2_re_1_3 0 s1 x2_re_a3 0 -1051013779449.3003
Gr2_im_1_3 0 s1 x2_im_a3 0 -1420073398137.625
Gr3_1_3 0 s1 x3_a3 0 147369695.643702
Gr4_1_3 0 s1 x4_a3 0 2337796707.3133445
Gd1_4 0 s1 p4 0 3.818220753214489e-06
Fd1_4 0 s1 V4 0.0001909110376607245
Gr1_1_4 0 s1 x1_a4 0 -597334113507.8119
Gr2_re_1_4 0 s1 x2_re_a4 0 216495732485.25082
Gr2_im_1_4 0 s1 x2_im_a4 0 -143460916711.4927
Gr3_1_4 0 s1 x3_a4 0 -58188130.45721889
Gr4_1_4 0 s1 x4_a4 0 2798174572.1720953
*
* State networks driven by port 1
Cx1_a1 x1_a1 0 1.0
Gx1_a1 0 x1_a1 p1 0 0.07071067811865475
Fx1_a1 0 x1_a1 V1 3.5355339059327378
Rp1_a1 0 x1_a1 1.4249470243021733e-13
Cx2_re_a1 x2_re_a1 0 1.0
Gx2_re_a1 0 x2_re_a1 p1 0 0.1414213562373095
Fx2_re_a1 0 x2_re_a1 V1 7.0710678118654755
Rp2_re_re_a1 0 x2_re_a1 2.2370881216791236e-13
Gp2_re_im_a1 0 x2_re_a1 x2_im_a1 0 4303319264264.5474
Cx2_im_a1 x2_im_a1 0 1.0
Gp2_im_re_a1 0 x2_im_a1 x2_re_a1 0 -4303319264264.5474
Rp2_im_im_a1 0 x2_im_a1 2.2370881216791236e-13
Cx3_a1 x3_a1 0 1.0
Gx3_a1 0 x3_a1 p1 0 0.07071067811865475
Fx3_a1 0 x3_a1 V1 3.5355339059327378
Rp3_a1 0 x3_a1 5.911834241884773e-12
Cx4_a1 x4_a1 0 1.0
Gx4_a1 0 x4_a1 p1 0 0.07071067811865475
Fx4_a1 0 x4_a1 V1 3.5355339059327378
Rp4_a1 0 x4_a1 1.036388375239062e-12
*
* Port network for port 2
V2 p2 s2 0
R2 s2 0 50.0
Gd2_1 0 s2 p1 0 -8.576444797045295e-07
Fd2_1 0 s2 V1 -4.288222398522648e-05
Gr1_2_1 0 s2 x1_a1 0 -1206718015240.3354
Gr2_re_2_1 0 s2 x2_re_a1 0 382133257433.7156
Gr2_im_2_1 0 s2 x2_im_a1 0 -388334016128.95905
Gr3_2_1 0 s2 x3_a1 0 105037000.86241357
Gr4_2_1 0 s2 x4_a1 0 -3880337681.913899
Gd2_2 0 s2 p2 0 2.586091448722339e-06
Fd2_2 0 s2 V2 0.00012930457243611696
Gr1_2_2 0 s2 x1_a2 0 4626162453731.324
Gr2_re_2_2 0 s2 x2_re_a2 0 -1236993496269.2827
Gr2_im_2_2 0 s2 x2_im_a2 0 1636549904038.3657
Gr3_2_2 0 s2 x3_a2 0 -64448709.071113326
Gr4_2_2 0 s2 x4_a2 0 -4291322565.3029203
Gd2_3 0 s2 p3 0 3.824887318505505e-06
Fd2_3 0 s2 V3 0.00019124436592527527
Gr1_2_3 0 s2 x1_a3 0 -596016802174.4718
Gr2_re_2_3 0 s2 x2_re_a3 0 216869254813.08093
Gr2_im_2_3 0 s2 x2_im_a3 0 -142269732663.1156
Gr3_2_3 0 s2 x3_a3 0 -58384527.29972925
Gr4_2_3 0 s2 x4_a3 0 2791616187.8872237
Gd2_4 0 s2 p4 0 -1.2022001343980904e-06
Fd2_4 0 s2 V4 -6.0110006719904525e-05
Gr1_2_4 0 s2 x1_a4 0 1413312421906.588
Gr2_re_2_4 0 s2 x2_re_a4 0 -1042922876967.3018
Gr2_im_2_4 0 s2 x2_im_a4 0 -1425676608052.2537
Gr3_2_4 0 s2 x3_a4 0 143902682.35342407
Gr4_2_4 0 s2 x4_a4 0 2533655932.350976
*
* State networks driven by port 2
Cx1_a2 x1_a2 0 1.0
Gx1_a2 0 x1_a2 p2 0 0.07071067811865475
Fx1_a2 0 x1_a2 V2 3.5355339059327378
Rp1_a2 0 x1_a2 1.4249470243021733e-13
Cx2_re_a2 x2_re_a2 0 1.0
Gx2_re_a2 0 x2_re_a2 p2 0 0.1414213562373095
Fx2_re_a2 0 x2_re_a2 V2 7.0710678118654755
Rp2_re_re_a2 0 x2_re_a2 2.2370881216791236e-13
Gp2_re_im_a2 0 x2_re_a2 x2_im_a2 0 4303319264264.5474
Cx2_im_a2 x2_im_a2 0 1.0
Gp2_im_re_a2 0 x2_im_a2 x2_re_a2 0 -4303319264264.5474
Rp2_im_im_a2 0 x2_im_a2 2.2370881216791236e-13
Cx3_a2 x3_a2 0 1.0
Gx3_a2 0 x3_a2 p2 0 0.07071067811865475
Fx3_a2 0 x3_a2 V2 3.5355339059327378
Rp3_a2 0 x3_a2 5.911834241884773e-12
Cx4_a2 x4_a2 0 1.0
Gx4_a2 0 x4_a2 p2 0 0.07071067811865475
Fx4_a2 0 x4_a2 V2 3.5355339059327378
Rp4_a2 0 x4_a2 1.036388375239062e-12
*
* Port network for port 3
V3 p3 s3 0
R3 s3 0 50.0
Gd3_1 0 s3 p1 0 -2.2193716536045294e-06
Fd3_1 0 s3 V1 -0.00011096858268022648
Gr1_3_1 0 s3 x1_a1 0 1553540072069.103
Gr2_re_3_1 0 s3 x2_re_a1 0 -1100065293813.306
Gr2_im_3_1 0 s3 x2_im_a1 0 -1399249300341.87
Gr3_3_1 0 s3 x3_a1 0 167276704.46165192
Gr4_3_1 0 s3 x4_a1 0 1657557169.4011416
Gd3_2 0 s3 p2 0 3.922169743639009e-06
Fd3_2 0 s3 V2 0.00019610848718195045
Gr1_3_2 0 s3 x1_a2 0 -563000266004.7948
Gr2_re_3_2 0 s3 x2_re_a2 0 202310426727.93924
Gr2_im_3_2 0 s3 x2_im_a2 0 -136086004830.6602
Gr3_3_2 0 s3 x3_a2 0 -56671503.574542865
Gr4_3_2 0 s3 x4_a2 0 2835089956.5188394
Gd3_3 0 s3 p3 0 1.935546855379687e-06
Fd3_3 0 s3 V3 9.677734276898435e-05
Gr1_3_3 0 s3 x1_a3 0 -3516392794239.1475
Gr2_re_3_3 0 s3 x2_re_a3 0 761895075751.6957
Gr2_im_3_3 0 s3 x2_im_a3 0 -1474122464188.0789
Gr3_3_3 0 s3 x3_a3 0 -119722457.44307657
Gr4_3_3 0 s3 x4_a3 0 -3276995993.060734
Gd3_4 0 s3 p4 0 -4.5248549362406604e-07
Fd3_4 0 s3 V4 -2.2624274681203302e-05
Gr1_3_4 0 s3 x1_a4 0 752580231423.9846
Gr2_re_3_4 0 s3 x2_re_a4 0 -63871572220.253105
Gr2_im_3_4 0 s3 x2_im_a4 0 405807497842.1717
Gr3_3_4 0 s3 x3_a4 0 31879208.148758672
Gr4_3_4 0 s3 x4_a4 0 -1621637280.0329769
*
* State networks driven by port 3
Cx1_a3 x1_a3 0 1.0
Gx1_a3 0 x1_a3 p3 0 0.07071067811865475
Fx1_a3 0 x1_a3 V3 3.5355339059327378
Rp1_a3 0 x1_a3 1.4249470243021733e-13
Cx2_re_a3 x2_re_a3 0 1.0
Gx2_re_a3 0 x2_re_a3 p3 0 0.1414213562373095
Fx2_re_a3 0 x2_re_a3 V3 7.0710678118654755
Rp2_re_re_a3 0 x2_re_a3 2.2370881216791236e-13
Gp2_re_im_a3 0 x2_re_a3 x2_im_a3 0 4303319264264.5474
Cx2_im_a3 x2_im_a3 0 1.0
Gp2_im_re_a3 0 x2_im_a3 x2_re_a3 0 -4303319264264.5474
Rp2_im_im_a3 0 x2_im_a3 2.2370881216791236e-13
Cx3_a3 x3_a3 0 1.0
Gx3_a3 0 x3_a3 p3 0 0.07071067811865475
Fx3_a3 0 x3_a3 V3 3.5355339059327378
Rp3_a3 0 x3_a3 5.911834241884773e-12
Cx4_a3 x4_a3 0 1.0
Gx4_a3 0 x4_a3 p3 0 0.07071067811865475
Fx4_a3 0 x4_a3 V3 3.5355339059327378
Rp4_a3 0 x4_a3 1.036388375239062e-12
*
* Port network for port 4
V4 p4 s4 0
R4 s4 0 50.0
Gd4_1 0 s4 p1 0 3.9136053052706924e-06
Fd4_1 0 s4 V1 0.00019568026526353463
Gr1_4_1 0 s4 x1_a1 0 -574644146819.5114
Gr2_re_4_1 0 s4 x2_re_a1 0 205952059016.52536
Gr2_im_4_1 0 s4 x2_im_a1 0 -139696145060.85263
Gr3_4_1 0 s4 x3_a1 0 -56844402.83707588
Gr4_4_1 0 s4 x4_a1 0 2842833117.266906
Gd4_2 0 s4 p2 0 -1.3063202438656778e-06
Fd4_2 0 s4 V2 -6.531601219328388e-05
Gr1_4_2 0 s4 x1_a2 0 1438174192965.6538
Gr2_re_4_2 0 s4 x2_re_a2 0 -1061467799029.6914
Gr2_im_4_2 0 s4 x2_im_a2 0 -1431105778180.4731
Gr3_4_2 0 s4 x3_a2 0 157695766.38719633
Gr4_4_2 0 s4 x4_a2 0 2031244531.4579895
Gd4_3 0 s4 p3 0 -4.4941982827617416e-07
Fd4_3 0 s4 V3 -2.2470991413808708e-05
Gr1_4_3 0 s4 x1_a3 0 762460109755.1884
Gr2_re_4_3 0 s4 x2_re_a3 0 -66345820698.921326
Gr2_im_4_3 0 s4 x2_im_a3 0 409498495329.96716
Gr3_4_3 0 s4 x3_a3 0 32645750.97022205
Gr4_4_3 0 s4 x4_a3 0 -1633618425.3892248
Gd4_4 0 s4 p4 0 2.1516949479983076e-06
Fd4_4 0 s4 V4 0.00010758474739991539
Gr1_4_4 0 s4 x1_a4 0 -3347491311339.526
Gr2_re_4_4 0 s4 x2_re_a4 0 740210405252.829
Gr2_im_4_4 0 s4 x2_im_a4 0 -1391048463402.3
Gr3_4_4 0 s4 x3_a4 0 -100064355.32910477
Gr4_4_4 0 s4 x4_a4 0 -3835278364.015358
*
* State networks driven by port 4
Cx1_a4 x1_a4 0 1.0
Gx1_a4 0 x1_a4 p4 0 0.07071067811865475
Fx1_a4 0 x1_a4 V4 3.5355339059327378
Rp1_a4 0 x1_a4 1.4249470243021733e-13
Cx2_re_a4 x2_re_a4 0 1.0
Gx2_re_a4 0 x2_re_a4 p4 0 0.1414213562373095
Fx2_re_a4 0 x2_re_a4 V4 7.0710678118654755
Rp2_re_re_a4 0 x2_re_a4 2.2370881216791236e-13
Gp2_re_im_a4 0 x2_re_a4 x2_im_a4 0 4303319264264.5474
Cx2_im_a4 x2_im_a4 0 1.0
Gp2_im_re_a4 0 x2_im_a4 x2_re_a4 0 -4303319264264.5474
Rp2_im_im_a4 0 x2_im_a4 2.2370881216791236e-13
Cx3_a4 x3_a4 0 1.0
Gx3_a4 0 x3_a4 p4 0 0.07071067811865475
Fx3_a4 0 x3_a4 V4 3.5355339059327378
Rp3_a4 0 x3_a4 5.911834241884773e-12
Cx4_a4 x4_a4 0 1.0
Gx4_a4 0 x4_a4 p4 0 0.07071067811865475
Fx4_a4 0 x4_a4 V4 3.5355339059327378
Rp4_a4 0 x4_a4 1.036388375239062e-12
.ENDS s_equivalent_0

.SUBCKT BJT_core _net0 _net2 _net1 _net3 
XBJT_Core _net0 _net2 _net1 _net3 s_equivalent_0 
.ENDS

IProbe:Pr1 _net0 Collector_voltage
IProbe:Pr3 _net1 Vout
Vdc:V1 Vcc gnd U="1.65V"
.SW:SW3 Sim="HB1" Type="lin" Param="y" Start="0.0005" Stop="0.0035" Points="50"
R:R5 gnd Vout R="50 Ohm" Temp="26.85" Tc1="0.0" Tc2="0.0" Tnom="26.85"
C:C15 _net0 _net1 C="160 fF" V=""
INDQ:LQ2 Vcc _net0 L="320 pH" Q="13" f="50e9" Mode="Linear" Temp="26.85"
.HB:HB1 f="50 GHz" n="3" iabstol="1 pA" vabstol="1 uV" reltol="0.001" MaxIter="150"
C:C13 _net2 _net3 C="100 fF" V=""
R:R1 _net2 _net3 R="5 kOhm" Temp="26.85" Tc1="0.0" Tc2="0.0" Tnom="26.85"
C:C14 _net4 _net5 C="43 fF" V=""
Iac:I1 _net6 gnd I="y" f="50 GHz" Phase="0" Theta="0" IO="0" TD="0"
IProbe:Pr2 Vin _net4
Sub:npn13G3 _net7 _net8 gnd gnd Type="IHP_PDK_nonlinear_components_npn13G2" Nx="10"
R:R6 _net6 Vin R="50 Ohm" Temp="26.85" Tc1="0.0" Tc2="0.0" Tnom="26.85"
Vdc:V3 _net9 gnd U="1.25"
INDQ:LQ3 _net10 _net9 L="103pH" Q="13" f="50 GHz" Mode="Linear" Temp="26.85"
Sub:SUB2 _net5 _net2 _net10 Type="T_connection"
Sub:SUB1 _net3 Collector_voltage _net8 _net7 Type="BJT_core"
